US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-(pyridin-3-yl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
A mixture of tert-butyl (3S,5R)-3-[{[5-bromo-1-(4-methoxybutyl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (188 mg), pyridin-3-ylboronic acid (41 mg), tetrakis(triphenylphosphine)palladium(0) (35 mg), sodium carbonate (371 mg), ethanol (2 ml), toluene (2 ml) and water (2 ml) was heated under reflux for 12 hr. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in ethyl acetate and washed with water. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) was concentrated under reduced pressure, and crystals were collected by filtration to give the object product (200 mg).

reactant | tert-butyl (3S,5R)-3-[{[5-bromo-1-(4-methoxybutyl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 188 mg | BrC1=CC=C(N1CCCCOC)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H47BrN4O6
reactant | pyridin-3-ylboronic acid | 41 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 371 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 ml | O | H2O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-5-(pyridin-3-yl)-1H-pyrrol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 200 mg | COCCCCN1C(=CC=C1C=1C=NC=CC1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C34H51N5O6
